US08809336B2
4-(4-tert-Butyl-benzyl)-1-(1H-pyrazolo[3,4-b]pyridin-4-yl)-piperidin-4-ylamine
4-[4-Amino-4-(4-tert-butyl-benzyl)-piperidin-1-yl]-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester (23 mg, 0.053 mmol) was suspended in 2M potassium hydroxide (1 mL) and irradiated in a microwave reactor (250 W) for 2 hours at 120° C. After cooling, water (2 mL) was added and the aqueous layer was extracted with ethyl acetate (2×4 mL). The organic layers were dried (Na2SO4) and concentrated to give a yellow solid (9 mg, 47%). LC-MS (LCT2) m/z 364 [M+H+], Rt 2.80 min.

reactant | 4-[4-Amino-4-(4-tert-butyl-benzyl)-piperidin-1-yl]-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | 0.053 mmol, 23 mg | C(C)OC(=O)C=1C(=C2C(=NC1)NN=C2)N2CCC(CC2)(CC2=CC=C(C=C2)C(C)(C)C)N | C25H33N5O2
reactant | water | 2 mL | O | H2O
solvent | potassium hydroxide | 2M, 1 mL | [OH-].[K+]
product | 4-(4-tert-Butyl-benzyl)-1-(1H-pyrazolo[3,4-b]pyridin-4-yl)-piperidin-4-ylamine | 9 mg, 47% | C(C)(C)(C)C1=CC=C(CC2(CCN(CC2)C2=C3C(=NC=C2)NN=C3)N)C=C1 | C22H29N5
